US07781591B2
A solution of 5-[4-(2-chloroethoxy)phenyl]-4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]nicotinonitrile (144 mg, 0.3 mmol) and 1-methylpiperazine (330 mg, 3.3 mmol) in DME (3 mL) was stirred at 110° C. for 48 h. After the solution was concentrated, 1 N HCl was added and the aqueous phase was extracted with ethyl acetate, adjusted to pH of 10 by adding sodium carbonate, and extracted with ethyl acetate. The combined organic phases were washed with water and brine, dried over magnesium sulfate, and concentrated to give 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-{4-[2-(4-methylpiperazin-1-yl)ethoxy]phenyl}nicotinonitrile as a yellow solid (140 mg, 84% yield). HPLC retention time: 5.1 min.(g); MS: 501.3 (M+H); and HRMS: 501.2159.

reactant | 5-[4-(2-chloroethoxy)phenyl]-4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]nicotinonitrile | 0.3 mmol, 144 mg | ClCCOC1=CC=C(C=C1)C=1C=NC=C(C#N)C1NC=1C(=C2C=CNC2=C(C1)Cl)C | C23H18Cl2N4O
reactant | 1-methylpiperazine | 3.3 mmol, 330 mg | CN1CCNCC1 | C5H12N2
solvent | DME | 3 mL | COCCOC | C4H10O2
product | 4-[(7-chloro-4-methyl-1H-indol-5-yl)amino]-5-{4-[2-(4-methylpiperazin-1-yl)ethoxy]phenyl}nicotinonitrile | 140 mg, 84% yield | ClC=1C=C(C(=C2C=CNC12)C)NC1=C(C=NC=C1C#N)C1=CC=C(C=C1)OCCN1CCN(CC1)C | C28H29ClN6O
